US06147098
A solution of diphenylcyanocarbonimidate (2 mmol, 476 mg), 3,5 bistrifluoromethylaniline (2 mmol, 458 mg) and triethylamine (2 mmol, 202 mg) in dichloromethane (15 ml) was stirred under nitrogen for 12 h. After concentration the residue was stirred with toluene (5 ml) for 2 h and the solid was collected by filtration giving 550 mg of N-(3,5-bis(trifluoromethyl)phenyl)-N'-cyano-O-phenylisourea (73.6%);

reactant | diphenylcyanocarbonimidate | 2 mmol, 476 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | 3,5 bistrifluoromethylaniline | 2 mmol, 458 mg | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | triethylamine | 2 mmol, 202 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(3,5-bis(trifluoromethyl)phenyl)-N'-cyano-O-phenylisourea | 550 mg, 73.6% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=NC#N)(F)F | C16H9F6N3O
